US07799787B2
N-Cyclopropyl-6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide
The title compound was prepared in the same manner as described for Example 4, Step 3 from 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid and cyclopropylamine. 1H NMR (400 MHz, acetone-d6): δ 0.71-0.82 (m, 4H), 1.91-1.99 (m, 2H), 2.13-2.19 (m, 2H), 2.96-3.02 (m, 1H), 3.91-4.07 (m, 4H), 5.04 (m, 1H), 7.13 (t, 1H), 7.37 (m, 2H), 7.62-7.68 (m, 2H), 7.91 (d, 1H), 8.09 (s, 1H). MS (+ESI) m/z 407 (MH+).

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxylic acid | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H16F3N3O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide | C1(CC1)NC(=O)C=1N=NC(=CC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C20H21F3N4O2
